US05605890
A. Linker-Adamantane Complex
To prepare compound 5 (1-O-(4,4'-dimethoxytrityl)-3-O-(N-adamantoyl-3-aminopropyl) glycerol), 8.56 g, (24.35 mmole) compound 4 was dissolved in a mixture of THF (48.7 ml) and 1M aqueous HCl (48.7 ml). The solution was stirred at room temperature for 30 minutes. 50 ml absolute ethanol (50 ml) was then added. The solution was concentrated, the residue was redissolved in 50 ml absolute ethanol, and the solution concentrated again. The resultant product was dried by co-evaporation with pyridine (2×50 ml) to give an oil which was redissolved in dry pyridine (150 ml). 8.25 g (24.35 mmole) 4,4'-dimethoxytrityl chloride was then added in two portions with stirring for 15 minutes. The resulting solution was left for 1 hour. 50 ml absolute ethanol was added and the solution was concentrated. The residue was dissolved in 200 ml dichloromethane and then washed with saturated sodium bicarbonate solution (2×60 ml). The aqueous layer was washed with dichloromethane (2×30 ml) and the organic extracts were combined, dried and evaporated. The residue was chromatographed on silica column (300 g) and eluted with a mixture of dichloromethane: methanol (19:1) to give a white foamy product (9.16 g (61.3%).

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 4,4'-dimethoxytrityl chloride | 24.35 mmole, 8.25 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | THF | 48.7 ml | C1CCOC1 | C4H8O
solvent | HCl | 1M, 48.7 ml | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | Adamantane | C12CC3CC(CC(C1)C3)C2 | C10H16
